US06559172B1
Preparation of (4R*,5R*)-5-(4-Methoxy-2-methoxymethoxy-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 4-methoxy-2-methoxymethoxybenzaldehyde (0.12 g, 0.63 mmol), tosylmethylisocyanide (0.12 g, 0.60 mmol) and NaCN (3 mg, 0.06 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 392.0 (M+H+).

reactant | 4-methoxy-2-methoxymethoxybenzaldehyde | 0.63 mmol, 0.12 g | COC1=CC(=C(C=O)C=C1)OCOC | C10H12O4
reactant | tosylmethylisocyanide | 0.60 mmol, 0.12 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.06 mmol, 3 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(4-Methoxy-2-methoxymethoxy-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | COC1=CC(=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C)OCOC | C19H21NO6S
